US07045544B2
tert-Butyl {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetate
Under argon, 50 mg (0.14 mmol) of tert-butyl [5-amino-2-(anilinecarbonyl)-1H-indol-1-yl]acetate from Example LII and 15.23 mg (0.02 ml, 0.15 mmol) of triethylamine are added to 2 ml of THF. The mixture is cooled to 0° C., and a solution of 20.26 mg (0.02 ml, 0.15 mmol) of 3,3-dimethylbutyryl chloride in 0.2 ml of THF is added. The mixture is stirred at RT for 2 hours and, for work-up, added to dilute hydrochloric acid and ethyl acetate and extracted. The organic phase is washed with sat. sodium bicarbonate solution, dried with sodium sulphate, filtered and dried under reduced pressure. The resulting crude product is purified by column chromatography (silica gel 60, mobile phase: cyclohexane/ethyl acetate 2:1).

reactant | tert-butyl [5-amino-2-(anilinecarbonyl)-1H-indol-1-yl]acetate | 0.14 mmol, 50 mg | NC=1C=C2C=C(N(C2=CC1)CC(=O)OC(C)(C)C)C(=O)NC1=CC=CC=C1 | C21H23N3O3
reactant | triethylamine | 0.15 mmol, 0.02 ml, 15.23 mg | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyryl chloride | 0.15 mmol, 0.02 ml, 20.26 mg | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 0.2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetate | N(C1=CC=CC=C1)C(=O)C=1N(C2=CC=C(C=C2C1)NC(CC(C)(C)C)=O)CC(=O)OC(C)(C)C | C27H33N3O4
